US07851469B2
3-Phenyl-5-trifluoromethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole
To a solution of 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole (69.8 mg, 0.25 mmol) in DMF (1.0 mL) was added 4-fluorobenzotrifluoride (32 μL, 41 mg, 0.25 mmol) and potassium carbonate (69.1 mg, 0.5 mmol) and the resulting mixture heated at 120° C. overnight. The resulting mixture was then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=60:40) afforded the title compound (68 mg, 64%) which was obtained as an off-white solid. MS: m/e=424.3 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | 0.25 mmol, 69.8 mg | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 4-fluorobenzotrifluoride | 0.25 mmol, 32 μL, 41 mg | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | potassium carbonate | 0.5 mmol, 69.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-Phenyl-5-trifluoromethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 68 mg, 64% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H11F6N3O
